US05356748
Liquid developers were prepared in the same manner as described in Example 1 except that latex particles shown in Table G were used in place of the white resin dispersion obtained in Production Example 1 of Latex Grains and an octadecene octadecylamide semi-maleate copolymer was added so as to give a concentration of 0.01 g/liter of Isopar H, and their charge amount was measured. The results obtained are shown in Table G.

reactant | octadecene octadecylamide | C(CCCCCCCCCCCCCCCCC)[NH-].C=CCCCCCCCCCCCCCCCC
reactant | maleate | C(\C=C/C(=O)[O-])(=O)[O-]
product | Isopar H | CCCCCCCCC(C)C | C11H24
